US04803211
Using 0.30 g of 4-acetyl-3-hydroxy-2-propylbenzyl chloride and 0.18 g of 3-amino-5-mercapto-1,2,4-triazole as starting materials, 0.25 g of 4'-[[(5-amino-1,2,4-triazol-3-yl]thio]methyl]-2'-hydroxy-3'-propylacetophenone was obtained in a manner similar to Example 25.

reactant | 4-acetyl-3-hydroxy-2-propylbenzyl chloride | 0.30 g | C(C)(=O)C1=C(C(=C(CCl)C=C1)CCC)O | C12H15ClO2
reactant | 3-amino-5-mercapto-1,2,4-triazole | 0.18 g | NC1=NNC(=N1)S | C2H4N4S
product | 4'-[[(5-amino-1,2,4-triazol-3-yl]thio]methyl]-2'-hydroxy-3'-propylacetophenone | 0.25 g | NC1=NC(=NN1)SCC1=C(C(=C(C=C1)C(C)=O)O)CCC | C14H18N4O2S
